US07790885B2
Benzyl 1-[({2,5-difluoro-4-[(2-{[(3-hydroxyazetidin-1-yl)carbonyl]amino}pyridin-4-yl)oxy]phenyl}amino)carbonyl]cyclopropanecarboxylate
Triethylamine (0.100 ml) was added to a mixture of benzyl 1-({[4-({2-[(phenoxycarbonyl)amino]pyridin-4-yl}oxy)-2,5-difluorophenyl]amino}carbonyl)cyclopropanecarboxylate (200 mg), 3-hydroxyazetidine hydrochloride (39.1 mg) and N,N-dimethylformamide (4.0 ml) at room temperature under a nitrogen atmosphere, and the mixture was stirred for 6 hours and 10 minutes. 3-Hydroxyazetidine hydrochloride (10.0 mg) and triethylamine (0.025 ml) were added at room temperature, and the mixture was stirred for 1 hour and 20 minutes. A saturated aqueous solution of sodium hydrogencarbonate (16 ml) and hexane (5 ml) were added to the mixture, and the precipitated solid was collected by filtration. The solid was washed with water (2 ml, three times), and dried under aeration. The resultant solid was purified by silica gel column chromatography (Fuji Silysia NH, eluent; ethyl acetate, then ethyl acetate:methanol=10:1). The fractions containing the target compound was concentrated under reduced pressure to give the title compound (86.7 mg, 45%) as a white solid.

reactant | benzyl 1-({[4-({2-[(phenoxycarbonyl)amino]pyridin-4-yl}oxy)-2,5-difluorophenyl]amino}carbonyl)cyclopropanecarboxylate | 200 mg | O(C1=CC=CC=C1)C(=O)NC1=NC=CC(=C1)OC1=CC(=C(C=C1F)NC(=O)C1(CC1)C(=O)OCC1=CC=CC=C1)F | C30H23F2N3O6
reactant | 3-hydroxyazetidine hydrochloride | 39.1 mg | Cl.OC1CNC1
reactant | 3-Hydroxyazetidine hydrochloride | 10.0 mg | Cl.OC1CNC1
reactant | sodium hydrogencarbonate | 16 ml | C(O)([O-])=O.[Na+]
solvent | hexane | 5 ml | CCCCCC | C6H14
solvent | triethylamine | 0.025 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 4.0 ml | CN(C=O)C | C3H7NO
solvent | Triethylamine | 0.100 ml | C(C)N(CC)CC | C6H15N
product | Benzyl 1-[({2,5-difluoro-4-[(2-{[(3-hydroxyazetidin-1-yl)carbonyl]amino}pyridin-4-yl)oxy]phenyl}amino)carbonyl]cyclopropanecarboxylate | 86.7 mg, 45% | FC1=C(C=C(C(=C1)OC1=CC(=NC=C1)NC(=O)N1CC(C1)O)F)NC(=O)C1(CC1)C(=O)OCC1=CC=CC=C1 | C27H24F2N4O6
